US04065572
3-(Diacetoxymethyl)-4-acetoxybenzyl chloride (987 g., 3.14 mole) and sodium iodide (494 g., 3.29 moles) in 3.5 liters acetone are refluxed for 6 hours. The reaction mixture is filtered, the filtrate is evaporated to dryness, triturated in ether and filtered to yield 1,162 g (91%) of 3-(diacetoxymethyl)-4-acetoxybenzyl iodide, m.p. 117°-120° C.

reactant | 3-(Diacetoxymethyl)-4-acetoxybenzyl chloride | 3.14 mole, 987 g | C(C)(=O)OC(C=1C=C(CCl)C=CC1OC(C)=O)OC(C)=O | C14H15ClO6
reactant | sodium iodide | 3.29 moles, 494 g | [I-].[Na+]
solvent | acetone | 3.5 liters | CC(=O)C | C3H6O
product | 3-(diacetoxymethyl)-4-acetoxybenzyl iodide | 1,162 g, 91% | C(C)(=O)OC(C=1C=C(CI)C=CC1OC(C)=O)OC(C)=O | C14H15IO6
